US07816522B2
To a suspension of 57.96 g of 2-(4-cyanophenylamino)-2-(2-fluoro-5-methoxy-3-triisopropylsilanyloxyphenyl)thioacetamide in 200 ml of acetonitrile there was added 18.5 g of Me3O+BF4−, and the mixture was stirred at room temperature for 3 hours. After adding 2.1 g of Me3O+BF4− to the reaction mixture, it was further stirred at room temperature for 1 hour. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, and extraction was performed with ethyl acetate. After washing the organic layer with saturated brine, it was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off, and the filtrate was concentrated under reduced pressure to give 2-(4-cyanophenylamino)-2-(2-fluoro-5-methoxy-3-triisopropylsilanyloxyphenyl)thioacetimidic acid methyl ester (crude product).

reactant | 2-(4-cyanophenylamino)-2-(2-fluoro-5-methoxy-3-triisopropylsilanyloxyphenyl)thioacetamide | 57.96 g | C(#N)C1=CC=C(C=C1)NC(C(=S)N)C1=C(C(=CC(=C1)OC)O[Si](C(C)C)(C(C)C)C(C)C)F | C25H34FN3O2SSi
reactant | BF4− | F[B-](F)(F)F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-(4-cyanophenylamino)-2-(2-fluoro-5-methoxy-3-triisopropylsilanyloxyphenyl)thioacetimidic acid methyl ester | CSC(C(C1=C(C(=CC(=C1)OC)O[Si](C(C)C)(C(C)C)C(C)C)F)NC1=CC=C(C=C1)C#N)=N | C26H36FN3O2SSi
